US05037829
A mixture of 4.2 parts of 2-amino-4-[(1H-imidazol-1-yl)phenylmethyl]benzamide, 97 parts of trimethoxymethane and 1.3 parts of formic acid was stirred for 5 hours at reflux temperature and overnight at room temperature. The solvent was evaporated and the residue was dissolved in methanol. The solution was basified with ammonious methanol and then evaporated. The residue was purified twice by column chromatography (silica gel; CHCl3 /CH3OH 95:5; CHCl3 /CH3OH 90:10). The eluent of the desired fraction was evaporated and the residue was crystallized from acetonitrile. The product was filtered off, washed with 2,2'-oxybispropane and dried, yielding 1 part (23.6%) of 7-[(1H-imidazol-1-yl)phenylmethyl]-4(3H)-quinazolinone; mp. 205.0° C. (comp. 47).

reactant | 2-amino-4-[(1H-imidazol-1-yl)phenylmethyl]benzamide | NC1=C(C(=O)N)C=CC(=C1)C(C1=CC=CC=C1)N1C=NC=C1 | C17H16N4O
reactant | trimethoxymethane | COC(OC)OC | C4H10O3
solvent | formic acid | C(=O)O | CH2O2
product | 7-[(1H-imidazol-1-yl)phenylmethyl]-4(3H)-quinazolinone | 23.6% | N1(C=NC=C1)C(C1=CC=C2C(NC=NC2=C1)=O)C1=CC=CC=C1 | C18H14N4O
